US07635781B2
step a) 1-methyl-3-(4-methylphenyl)-1H-indole
A mixture of 4.31 g (0.02 mol) of 3-bromo-1-methyl-1H-indole and 0.22 g (0.0004 mol) of NiCl2dppp was added to a solution of p-TolylMgBr in ether (prepared from 0.6 g of Mg (0.025 mol) and 4.21 g of TolylBr (0.024 mol) in 40 mL of ether) under stirring. The reaction mixture was stirred overnight. The resulting mixture was treated with 10% aqueous NH4Cl, the organic layer was separated, washed with 10% aqueous NH4Cl and then dried over anhydrous Na2SO4. The solution was evaporated to give an oil that crystallized. The product was washed with methanol and dried. Yield 2.2 g (49%) of colorless crystalline solid.

reactant | 3-bromo-1-methyl-1H-indole | 0.02 mol, 4.31 g | BrC1=CN(C2=CC=CC=C12)C | C9H8BrN
reactant | ether | 0.025 mol, 40 mL, 0.6 g | CCOCC | C4H10O
reactant | NH4Cl | [NH4+].[Cl-]
product | 1-methyl-3-(4-methylphenyl)-1H-indole | CN1C=C(C2=CC=CC=C12)C1=CC=C(C=C1)C | C16H15N
